US07446102B2
(8S,11S,14S)-14-Amino-N-((1S)-4-amino-1-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}butyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide pentahydrochloride
7 mg (0.008 mmol) of tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-4-amino-1-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}butyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate tris(hydroacetate) (Example 208A) are added into 0.6 ml of a 4N solution of hydrogen chloride in dioxane and stirred at RT for 30 min. The reaction solution is concentrated, coevaporated with dichloromethane several times and dried under high vacuum.

reactant | tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-4-amino-1-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}butyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate | 0.008 mmol, 7 mg | C(C)(C)(C)OC(NCCC[C@H]1C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C[C@@H](C(N1)=O)NC(=O)OC(C)(C)C)C3)O)=C2)O)C(=O)N[C@@H](CCCN)C(=O)N[C@@H](CCN)C(=O)NCCN)=O)=O | C44H68N10O11
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (8S,11S,14S)-14-Amino-N-((1S)-4-amino-1-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}butyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide pentahydrochloride | Cl.Cl.Cl.Cl.Cl.N[C@@H]1C(N[C@H](C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C1)C3)O)=C2)O)C(=O)N[C@@H](CCCN)C(=O)N[C@@H](CCN)C(=O)NCCN)=O)CCCN)=O | InChI=1S/C34H52N10O7.5ClH/c35-10-1-3-24-33(50)44-27(34(51)42-25(4-2-11-36)32(49)43-26(9-12-37)31(48)40-14-13-38)18-22-16-20(6-8-29(22)46)19-5-7-28(45)21(15-19)17-23(39)30(47)41-24;;;;;/h5-8,15-16,23-27,45-46H,1-4,9-14,17-18,35-39H2,(H,40,48)(H,41,47)(H,42,51)(H,43,49)(H,44,50);5*1H/t23-,24-,25-,26-,27-;;;;;/m0...../s1
